US08648068B2
113.3 4-[2-((3S,5S)-1-tert-Butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and ammonia in methanol.

reactant | 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1CO)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O6S
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 4-[2-((3S,5S)-1-tert-Butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1CO)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C24H28FN5O5S
